US07981903B2
6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-(1-methylethyl)benzamide (110 mg, 0.156 mmol) was dissolved in 1,4-dioxane (6 mL) and transferred to a 20 ml microwave vessel. Water (2 mL) and a solution of 6M NaOH (2 ml) and was added and reaction heated in microwave at 120° C. for 10 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a brown solid that was purified via chromatography on SiO2 to afford 6-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluorobenzamide (53 mg, 0.096 mmol) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.82-1.94 (m, 2 H), 2.12 (br. s., 6 H), 2.68 (br. s., 2 H), 3.24 (s, 2 H), 3.70 (t, J=5.95 Hz, 2 H), 3.84 (s, 3 H), 6.29 (d, J=1.10 Hz, 1 H), 6.83 (br. s., 1 H), 6.98 (br. s., 1 H), 7.38-7.51 (m, 2 H), 8.12 (br. s., 3 H), 8.42 (br. s., 1 H), 9.83 (br. s., 1 H), 11.37 (d, J=1.01 Hz, 1 H). (ESIMS (M+H)+=551)

reactant | 6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-(1-methylethyl)benzamide | 0.156 mmol, 110 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)NC(C)C)F)F)OC)C | C36H38F2N8O5S
reactant | Water | 2 mL | O | H2O
reactant | NaOH | 6M, 2 ml | [OH-].[Na+]
reactant | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluorobenzamide | 0.096 mmol, 53 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=CC=C(C(=C2C(=O)N)F)F)OC)C | C27H28F2N8O3
